US06423713B1
5[N-methoxyethyl-4-piperidyl]-4-(4-pyridyl)-3-(4-chlorophenyl)pyrazole
To a stirred suspension of 5-(4-piperidyl)-4-(4pyridyl)-3-(4-chlorophenyl)pyrazole hydrochloride (Example C-74) (500 mg, 1.2 mmol) in 12 mL of DMF was added Hunig's base (790 mg, 6.1 mmol) and 2-bromoethyl methyl ether (850 mg, 6.1 mmol). The solution was stirred at room temperature for 5 days. The solution was poured onto 2.5 N NaOH and was extracted with ethyl acetate (3×100 mL). The combined extracts were washed with water (3×100 mL) and brine (1×100 mL). The organic phase was dried over Na2SO4 and was filtered. The solvent was removed under reduced pressure to leave a solid. The solid was triturated and filtered to leave the title compound: 1HNMR (CDCl3) δ8.63 (d, J=4.23 Hz, 2 H), 7.28 (m, 4 H), 7.14 (d, J=4.43 Hz, 2 H), 3.57 (t, J=5.24 Hz, 2 H), 3.38 (s, 3 H), 3.14 (bd, J=10.1 Hz, 2 H), 2.79 (m, 1 H), 2.68 (t, J=5.04, 2 H), 2.08 (m, 4 H), 1.92 (m, 2 H). MS (M+H): 397 (base peak).

reactant | 5-(4-piperidyl)-4-(4pyridyl)-3-(4-chlorophenyl)pyrazole hydrochloride | 1.2 mmol, 500 mg | Cl.N1CCC(CC1)C1=C(C(=NN1)C1=CC=C(C=C1)Cl)C1=CC=NC=C1
reactant | Hunig's base | 6.1 mmol, 790 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromoethyl methyl ether | 6.1 mmol, 850 mg | COCCBr | C3H7BrO
reactant | NaOH | 2.5 N | [OH-].[Na+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 5[N-methoxyethyl-4-piperidyl]-4-(4-pyridyl)-3-(4-chlorophenyl)pyrazole | COCCN1CCC(CC1)C1=C(C(=NN1)C1=CC=C(C=C1)Cl)C1=CC=NC=C1 | C22H25ClN4O
